US09403818B2
Preparation of methyl 8-(3-(((tert-butoxycarbonyl)amino)methyl)-4-hydroxyphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(3-(((tert-butoxycarbonyl)amino)methyl)-4-hydroxyphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (65 mg, 0.22 mmol) and tert-butyl 2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate (93.3 mg, 0.27 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (85 mg, 100%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.22 mmol, 65 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | tert-butyl 2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate | 0.27 mmol, 93.3 mg | OC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO5
product | methyl 8-(3-(((tert-butoxycarbonyl)amino)methyl)-4-hydroxyphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 85 mg, 100% | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1O)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C27H30N2O6
